US05702692
N1 -(2-hydroxyethyl)-2-methyl-1,2-propandiamine
Neutralization with 2-amino-2-methyl-1-propanol or 2-amino-2-methyl-1-3-propandiol or triethanolamine is preferred.

reactant | 2-amino-2-methyl-1-propanol | NC(CO)(C)C | C4H11NO
reactant | 2-amino-2-methyl-1-3-propandiol | NC(CO)(CO)C | C4H11NO2
reactant | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
product | N1 -(2-hydroxyethyl)-2-methyl-1,2-propandiamine | OCCNCC(C)(N)C | C6H16N2O
